US08426437B2
8-(Methyl-prop-2-ynyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate (134)
This compound is prepared according to synthesis 111, from 196 mg (0.6 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid, 242 μL (2.4 mmol) of triethylamine and 45 mg (0.66 mmol) of N-methyl-prop-2-ynyl-amine to give, after esterification according to general method C (using di-n-propylsulfate as the dialkylsulfate) and purification by chromatography on silica (eluent dichloromethane/methanol 97/3) then trituration in diethyl ether, 80 mg (33% in two stages) of 8-(methyl-prop-2-ynyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.6 mmol, 196 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | triethylamine | 2.4 mmol, 242 μL | C(C)N(CC)CC | C6H15N
reactant | N-methyl-prop-2-ynyl-amine | 0.66 mmol, 45 mg | CNCC#C | C4H7N
reactant | di-n-propylsulfate | C(CC)OS(=O)(=O)OCCC | C6H14O4S
product | 8-(Methyl-prop-2-ynyl-sulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | CN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)CC#C.C(CC)C(=O)[O-] | InChI=1S/C15H13N3O3S.C4H8O2/c1-3-8-18(2)22(20,21)10-4-5-13-12(9-10)11-6-7-16-14(11)15(19)17-13;1-2-3-4(5)6/h1,4-7,9,16H,8H2,2H3,(H,17,19);2-3H2,1H3,(H,5,6)/p-1
